US05514680
3,5-Dichloro-1,2-diaminobenzene was prepared using an adaptation of the method of Bellamy, et al. (Bellamy, F. D. et al., Tetrahedron Lett. 25:839 (1984)). A mixture of 2,4-dichloro-6-nitroaniline (1.00 g, 4.8 mmol) and SnCl2 °2H2O (5.41 g, 24.1 mmol) dissolved in 10 mL ethyl acetate and 5 mL absolute ethanol under N2 was heated at 70° C. for 1 h. All the starting material had reacted as evidenced by TLC (silica gel, 3:1 hexanes:ethyl acetate). The reaction was allowed to cool to room temperature and poured into 40 mL crushed ice. Sufficient sat'd NaHCO3 solution was added (foaming ) to bring the pH to 5. The orange oil/thick white emulsion was extracted with 3×25 mL ethyl acetate and the combined organic extracts washed with sat'd NaCl solution. The organic phase was dried (MgSO4), vacuum filtered and the solvent rotary evaporated to yield a pale orange oil which crystallized on standing to yield 789 mg (93%). 1H NMR (CDCl3) δ3.69 (br s, 4H, 2(NH2)); 6.61 (s, 1H, H-6); 6.82 (s, 1H, H-4).

reactant | 2,4-dichloro-6-nitroaniline | 4.8 mmol, 1.00 g | ClC1=C(N)C(=CC(=C1)Cl)[N+](=O)[O-] | C6H4Cl2N2O2
reactant | SnCl2 | Cl[Sn]Cl
reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
product | 3,5-Dichloro-1,2-diaminobenzene | ClC=1C(=C(C=C(C1)Cl)N)N | C6H6Cl2N2
